US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-methanamine (0.75 g, 3.4 mmol) in acetic acid (6.5 ml) was treated with 2,5-dimethoxy-tetrahydrofuran (0.44 ml, 3.4 mmol) and heated to 115° C. for 1 hour. The mixture was quenched with ice water, basified with 20% sodium hydroxide and extracted with ethyl acetate. The organic phase was washed, dried and concentrated. The residue was triturated with ethyl ether and the residue chromatographed on silica gel eluted with methanol-methylene chloride (3:97) to give 6-chloro-2,3,4,5-tetrahydro-3-methyl-9-(1H-pyrrol-1-ylmethyl)-1H-3-benzazepine hydrochloride; mp 219°-223° C.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-methanamine | 3.4 mmol, 0.75 g | ClC1=CC=C(C2=C1CCN(CC2)C)CN | C12H17ClN2
reactant | 2,5-dimethoxy-tetrahydrofuran | 3.4 mmol, 0.44 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 6.5 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-2,3,4,5-tetrahydro-3-methyl-9-(1H-pyrrol-1-ylmethyl)-1H-3-benzazepine hydrochloride | Cl.ClC1=CC=C(C=2CCN(CCC21)C)CN2C=CC=C2 | InChI=1S/C16H19ClN2.ClH/c1-18-10-6-14-13(12-19-8-2-3-9-19)4-5-16(17)15(14)7-11-18;/h2-5,8-9H,6-7,10-12H2,1H3;1H
